US07652051B2
Synthesis of 4-[3-(3-trifluromethyl-benzenesulfonylamino)-benzo[1,2,4]triazin-7-yloxy]-pyridine-2-carboxylic acid methyl amide trifluoroacetate salt
100 mg (0.337 mmol, 1.0 equivalent) of 4-(3-amino-benzo[1,2,4]triazin-7-yloxy)-pyridine-carboxylic acid methylamide were dissolved in 2 mL of anhydrous dimethylformamide with heating to about 100° C. 45.4 mg (0.405 mmol, 1.2 equivalent) of solid tert-BuOK was added to the solution. The resulting dark-red solution was stirred at 100° C. for 30 min, then it was allowed to cool down to ambient temperature. 100 mg (0.405 mmol, 1.2 equivalent) of 3-trifluoromethyl-benzenesulfonyl chloride was added to the mixture via a syringe. It was allowed to stir at ambient temperature for 2 hours. The reaction mixture was filtered through 0.22 g syringe filter and purified by reverse-phase preperative HPLC using acetonitrile/water mixture with 0.1% of TFA.

reactant | 4-(3-amino-benzo[1,2,4]triazin-7-yloxy)-pyridine-carboxylic acid methylamide | 0.337 mmol, 100 mg, 1.0 equivalent | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(N=N2)N)C=C1 | C14H12N6O2
reactant | tert-BuOK | C(C)(C)(C)O[K]
reactant | 3-trifluoromethyl-benzenesulfonyl chloride | 0.405 mmol, 100 mg, 1.2 equivalent | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[3-(3-trifluromethyl-benzenesulfonylamino)-benzo[1,2,4]triazin-7-yloxy]-pyridine-2-carboxylic acid methyl amide trifluoroacetate salt | FC(C(=O)O)(F)F.CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(N=N2)NS(=O)(=O)C2=CC(=CC=C2)C(F)(F)F)C=C1 | InChI=1S/C21H15F3N6O4S.C2HF3O2/c1-25-19(31)18-11-14(7-8-26-18)34-13-5-6-16-17(10-13)28-29-20(27-16)30-35(32,33)15-4-2-3-12(9-15)21(22,23)24;3-2(4,5)1(6)7/h2-11H,1H3,(H,25,31)(H,27,29,30);(H,6,7)
